US08455515B2
N-Diaminomethylene-4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydro-isoquinolin-4-yl)benzenesulfonamide, dihydrochloride
0.36 g of guanidine is suspended in 30 ml of anhydrous THF under argon, and 0.40 g of 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonyl chloride (WO2003048129) is added. The mixture was stirred at RT for 24 h and then the THF was distilled off. 10 ml of water were added to the residue, and the precipitate was filtered off. It was washed with 10 ml of water and dried in vacuo. The solid was then suspended in 10 ml of EA, and 10 ml of a saturated solution of HCl in diethyl ether were added. The volatile constituents were removed in vacuo, and the residue was suspended in 10 ml of EA and stirred at RT for 5 h. The precipitate was then filtered off and dried in vacuo. 0.45 g was obtained, mp 140° C. (decomposition). Rf (EA/HEP/CH2Cl2/MeOH/conc. NH3=10:5:5:5:1)=0.30 MS (ES+):412

reactant | guanidine | 0.36 g | NC(=N)N | CH5N3
reactant | 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonyl chloride | 0.40 g | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)S(=O)(=O)Cl | C16H14Cl3NO2S
reactant | EA | CC(OCC)=O | C4H8O2
reactant | NH3 | N | H3N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-Diaminomethylene-4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydro-isoquinolin-4-yl)benzenesulfonamide, dihydrochloride | Cl.Cl.NC(=NS(=O)(=O)C1=CC=C(C=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C)N | InChI=1S/C17H18Cl2N4O2S.2ClH/c1-23-8-14(13-6-11(18)7-16(19)15(13)9-23)10-2-4-12(5-3-10)26(24,25)22-17(20)21;;/h2-7,14H,8-9H2,1H3,(H4,20,21,22);2*1H
